US07056924B2
(2R)-1-(2-methylbenzothiazol-5-yloxy)-3-(4-prop-2-ylpiperazinyl)propan-2-ol (0.035 g, 0.11 mmol) and DMF (1 mL) were placed in a Smith Process Vial™ (3 mL glass vessel) followed by the addition of 2-(chloromethyl)-5-phenyl-benzoxazole (0.027 g, 0.11 mmol). The vial was sealed and the mixture was heated in the Emrys Optimizer™ microwave at 150° C. for 300 sec, fixed hold time on, absorption level normal, pre-stirring 10 s. It was then cooled to room temperature, evaporated under reduced pressure and the residue was purified by flash chromatography (3% MeOH in CH2Cl2) to yield (2R)-3-(2-methylbenzothiazol-5-yloxy)-1-{4-[(5-phenylbenzoxazol-2-yl)methyl]piperazinyl}propan-2-ol as a off-white solid.

reactant | (2R)-1-(2-methylbenzothiazol-5-yloxy)-3-(4-prop-2-ylpiperazinyl)propan-2-ol | 0.11 mmol, 0.035 g | CC=1SC2=C(N1)C=C(C=C2)OC[C@@H](CN2CCN(CC2)C(C)C)O | C18H27N3O2S
reactant | 2-(chloromethyl)-5-phenyl-benzoxazole | 0.11 mmol, 0.027 g | ClCC=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C14H10ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2R)-3-(2-methylbenzothiazol-5-yloxy)-1-{4-[(5-phenylbenzoxazol-2-yl)methyl]piperazinyl}propan-2-ol | CC=1SC2=C(N1)C=C(C=C2)OC[C@@H](CN2CCN(CC2)CC=2OC1=C(N2)C=C(C=C1)C1=CC=CC=C1)O | C29H30N4O3S
